Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Incisional hernia 
 
Major Surgical or Invasive Procedure:
___: Open incisional hernia repair with mesh. 

 
History of Present Illness:
The patient is a ___ yo M with h/o roux-en-y gastric bypass in 
___ in ___ now with fat-containing, symptomatic incisional 
hernia. Patient was evaluated by Dr. ___ possible hernia 
repair, he present today for elective surgical procedure.  
 
Past Medical History:
PAST MEDICAL HISTORY:  
obesity

PAST SURGICAL HISTORY:   
roux-en-y gastric bypass
open appendectomy

 
Social History:
___
Family History:
Non contributory 
 
Physical Exam:
Prior to Discharge:
VS: 98.1, 85, 114/73, 18, 95% RA
GEN: Pleasant with NAD
HEENT: NC/AT, PERRL, EOMI, no JVD, no scleral icterus 
CV: RRR
PULM; CTAB
ABD: Abdominal binder on. Midline incision with streri strips 
and c/d/I. Left midline JP drain to bulb suction with moderate 
amount of serosanguineous fluid, site with drain sponge and 
c/d/I.
EXTR: Warm, no c/c/e
 
Pertinent Results:
None
 
Brief Hospital Course:
The patient was admitted to the General Surgical Service for 
elective incisional hernia repair. On ___, the patient 
underwent open incisional hernia repair with mesh, which went 
well without complication (please see the Operative Note for 
details). After a brief, uneventful stay in the PACU, the 
patient arrived on the floor NPO, on IV fluids and antibiotics, 
with a foley catheter and a JP drain in place, and epidural 
catheter for pain control. The patient was hemodynamically 
stable.
Post-operative pain was initially well controlled with epidural 
analgesia, which was converted to oral pain medication when 
tolerating clear liquids. The patient was started on sips of 
clears on POD# 1. Diet was progressively advanced as tolerated 
to a regular diet by POD# 2. The foley catheter was discontinued 
on POD 2 after epidural was discontinued to prevent urinary 
retention. The patient subsequently voided without problem. 
Patient was discharged home with JP drain in place to continue 
drainage.

At the time of discharge on POD 2, the patient was doing well, 
afebrile with stable vital signs. The patient was tolerating a 
regular diet, ambulating, voiding without assistance, and pain 
was well controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
None 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
4.  Senna 1 TAB PO BID:PRN constipation  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Incisional hernia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 
You were admitted to the surgery service at ___ for elective 
incisional hernia repair. You have done well in the post 
operative period and are now safe to return home to complete 
your recovery with the following instructions:
.
Please call Dr. ___ office at ___ or Office RNs at 
___ if you have any questions or concerns. 
.
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
Incision Care:
*Please keep abdominal binder on all the time until your follow 
up with your surgeon. You can shower without binder. 
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
.
JP Drain Care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*Maintain suction of the bulb.
*Note color, consistency, and amount of fluid in the drain.  
Call the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character.
*Be sure to empty the drain frequently.  Record the output, if 
instructed to do so.
*You may shower; wash the area gently with warm, soapy water.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.

 
Followup Instructions:
___